US04223034
4-Chloro-2-(piperidine-4-carboxamido)anisole (10.4 g) was dissolved in a mixture of acetic acid (100 ml) and concentrated sulphuric acid (5 ml). Fuming nitric acid (2.1 ml) was added dropwise, keeping the temperature below 30°. The solution was stirred at room temperature for 2 hr, poured onto crushed ice (ca 500 ml) and basified with 40% sodium hydroxide. The mixture was extracted with ethyl acetate (2×250 ml), the extracts dried (K2CO3) and solvent removed at the pump. The brown residue was crystallised from ethyl acetate and petroleum ether (b.p. 60°-80°), giving 4-chloro-5-nitro-2-(piperidine-4-carboxamido)anisole as brown plates (e17) (9.9 g, 82%), m.p. 167°-170°.

reactant | 4-Chloro-2-(piperidine-4-carboxamido)anisole | 10.4 g | ClC1=CC(=C(C=C1)OC)NC(=O)C1CCNCC1 | C13H17ClN2O2
reactant | nitric acid | 2.1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-5-nitro-2-(piperidine-4-carboxamido)anisole | ClC1=CC(=C(C=C1[N+](=O)[O-])OC)NC(=O)C1CCNCC1 | C13H16ClN3O4
